US08202858B2
4-(3-Carboxy-propyl)-3-methyl-benzoic Acid Methyl Ester
4-(2-Carboxy-ethyl)-3-methyl-benzoic acid methyl ester from Example E30.3 (500 mg, 2.25 mmol) was dissolved in dry dichloromethane (10 ml) and a few drops of DMF. Oxalyl chloride (0.393 ml, 4.5 mmol) was added dropwise and the mixture was stirred for 1 h at room temperature. Solvents were removed in vacuo and azeotroped with toluene. The residue was redissolved in acetonitrile (20 ml) and cooled to 0° C. A solution of 2M (trimethyl-silyl)diazomethane in hexanes (2.25 ml, 4.5 mmol) was added dropwise and the reaction mixture was stirred for 5 h at 0° C. then 20 h at room temperature. Ethyl acetate then 10% citric acid solution were added and the layers were partitioned. The organic layer was washed with saturated NaHCO3 then brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 50% ethyl acetate:50% cyclohexane). The product obtained was dissolved in a mixture of acetonitrile and water. A solution of silver benzo-ate (103 mg, 0.45 mmol) in triethylamine (1.25 ml, 9 mmol) was added gradually while the mixture was sonicated in an ultrasound bath. After 30 min at room temperature, solvents were removed in vacuo. Ethyl acetate and 10% aqueous citric acid solution were added and the layers were partitioned. The organic layer was washed with brine, dried and concentrated in vacuo. The residue was purified by flash chromatography on silica gel (eluant; 50% EtOAc:50% cyclohexane) to yield the title compound (378 mg, 71%).

reactant | 4-(2-Carboxy-ethyl)-3-methyl-benzoic acid methyl ester | COC(C1=CC(=C(C=C1)CCC(=O)O)C)=O | C12H14O4
reactant | Oxalyl chloride | 4.5 mmol, 0.393 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (trimethyl-silyl)diazomethane | 2M | C[Si](C)(C)C=[N+]=[N-] | C4H10N2Si
reactant | citric acid | C(CC(O)(C(=O)O)CC(=O)O)(=O)O | C6H8O7
reactant | triethylamine | 9 mmol, 1.25 ml | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
catalyst | DMF | a few drops | CN(C)C=O | C3H7NO
solvent | acetonitrile | C(C)#N | C2H3N
solvent | water | O | H2O
catalyst | silver benzo-ate | 0.45 mmol, 103 mg | C(C1=CC=CC=C1)(=O)[O-].[Ag+]
solvent | Ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-(3-Carboxy-propyl)-3-methyl-benzoic Acid Methyl Ester | 378 mg, 71% | COC(C1=CC(=C(C=C1)CCCC(=O)O)C)=O | C13H16O4
